US06638929B2
8-Methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile
To a solution of 2.81 mL (7.03 mmol) of n-butyllithium (2.5M in hexane) in 2.0 mL of tetrahydrofuran at −78° C. is added dropwise a solution of 0.448 mL (8.44 mmol) of acetonitrile in 4.4 mL of tetrahydrofuran. After completion of addition, the suspension is stirred for 10 minutes. To this is added 804.5 mg (2.81 mmol) of methyl 3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate in 18 mL of tetrahydrofuran dropwise. The resulting reaction mixture is stirred at −78° C. for 1 hour and at −5° C. for 1 hour. The reaction mixture is again cooled to −78° C. and 4.0 mL (69.9 mmol) of acetic acid is added dropwise. The reaction mixture is warmed up to room temperature and stirred overnight. The precipitate is collected by filtration and washed sequentially with water, acetonitrile and methanol. After drying in vacuo, this yields 468.6 mg (67%) of 8-methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile as a yellow solid, mp>265° C.

reactant | n-butyllithium | 7.03 mmol, 2.5M, 2.81 mL | C(CCC)[Li]
reactant | acetonitrile | 8.44 mmol, 0.448 mL | C(C)#N | C2H3N
reactant | methyl 3-{[(E)-(dimethylamino)methylidene]amino}-6-methoxy-2-naphthoate | 2.81 mmol, 804.5 mg | CN(C)\C=N\C=1C(=CC2=CC=C(C=C2C1)OC)C(=O)OC | C16H18N2O3
reactant | acetic acid | 69.9 mmol, 4.0 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 2.0 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.4 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 18 mL | O1CCCC1 | C4H8O
product | 8-Methoxy-4-oxo-1,4-dihydrobenzo[g]quinoline-3-carbonitrile | COC1=CC2=C(C=C3C(C(=CNC3=C2)C#N)=O)C=C1 | C15H10N2O2
